US07071220B2
Synthesis of 5-fluoro-N-[2-methanesulfonyl-4-(5-methoxy-4-methylthiazol-2-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide (Compound 55)
Under an argon atmosphere, 41 mg of 2-methanesulfonyl-4-(5-methoxy-4-methylthiazol-2-yl)aniline was dissolved into a mixed solution of 3 mL of THF and 3 mL of dimethylacetamide. The solution was cooled to −25° C. and 15 mg of sodium hydride (oily, 60%) was added thereto, followed by 10 minutes of stirring at the same temperature. Further, 44 mg of 2-chlorosulfonyl-5-fluoro-3-methylbenzo[b]thiophene was added and the whole was stirred for 2 hours at the same temperature, followed by termination of the reaction with 1 mol/L hydrochloric acid. After the reaction mixture was warmed to room temperature, the mixture was extracted with ethyl acetate-toluene (2/1) and the organic layer was washed with water and saturated brine, successively. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed by evaporation under reduced pressure and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1) to obtain 51 mg of the title compound as light yellow powder.

reactant | 2-methanesulfonyl-4-(5-methoxy-4-methylthiazol-2-yl)aniline | 41 mg | CS(=O)(=O)C1=C(N)C=CC(=C1)C=1SC(=C(N1)C)OC | C12H14N2O3S2
reactant | sodium hydride | 15 mg | [H-].[Na+]
reactant | 2-chlorosulfonyl-5-fluoro-3-methylbenzo[b]thiophene | 44 mg | ClS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)F)C | C9H6ClFO2S2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-fluoro-N-[2-methanesulfonyl-4-(5-methoxy-4-methylthiazol-2-yl)phenyl]-3-methylbenzo[b]thiophene-2-sulfonamide | 51 mg | FC1=CC2=C(SC(=C2C)S(=O)(=O)NC2=C(C=C(C=C2)C=2SC(=C(N2)C)OC)S(=O)(=O)C)C=C1 | C21H19FN2O5S4
